US07220856B2
Preparation of (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid Phenyl Ester
As described for example 213, (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, phenyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 537 (M++1). 1H NMR (CDCl3,) δ 1.56˜2.08 (m, 5H), 2.16–2.24 (m, 1H), 3.14 (m, 4H), 3.54 (dd, 1H), 3.68 (m, 4H), 4.54 (br.dd, 1H), 4.84 (br.s, 2H), 4.90 (ddd, 1H), 5.80 (d, 1H), 6.15 (s, 1H), 7.16˜7.22 (m, 3H), 7.27 (m, 1H), 7.41 (m, 2H), 7.62 (d, 1H), 7.72 (d, 1H).

reactant | (3R)-3-[[(1,1-dimethylethoxy)carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic acid, phenyl ester | CC(C)(OC(=O)N[C@H]1C(N(CCCC1)C(=O)OC1=CC=CC=C1)=O)C | C18H24N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxylic Acid Phenyl Ester | C1(=CC=CC=C1)OC(=O)N1C([C@H](CCCC1)NC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)N)=O | C27H29ClN6O4
